### PR TITLE
[Merged by Bors] - feat: Link finpartitions and setoids

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Partition/Finpartition.lean [hunk 1]
```diff
@@ -518,6 +522,40 @@ theorem card_parts_le_card (P : Finpartition s) : P.parts.card ≤ s.card := by
   exact card_mono bot_le
 #align finpartition.card_parts_le_card Finpartition.card_parts_le_card
 
+variable [Fintype α]
+
+/-- A setoid over a finite type induces a finpartition of the type's elements,
+where the parts are the setoid's equivalence classes. -/
+noncomputable def ofSetoid (s : Setoid α) : Finpartition (univ : Finset α) := by
```
Comment (pechersky) [inline Mathlib/Order/Partition/Finpartition.lean:529]: This can be made computable by requiring DecidableRel s.r.

File: Mathlib/Order/Partition/Finpartition.lean [hunk 2]
```diff
@@ -465,11 +460,20 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
...
 #align finpartition.exists_mem Finpartition.exists_mem
 
+theorem exists_unique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
+  obtain ⟨t, ht, ht'⟩ := P.exists_mem ha
+  refine' ⟨t, ⟨ht, ht'⟩, _⟩
+  rintro u ⟨hu, hu'⟩
+  exact P.eq_of_mem_parts hu ht hu' ht'
+
+/-- The part of the finpartition that `a` lies in. -/
+def part (ha : a ∈ s) : Finset α := choose (hp := P.exists_unique_mem ha)
```
Comment (pechersky) [inline Mathlib/Order/Partition/Finpartition.lean:475]: If you're adding this definition, you should likely add the choose_spec theorems about it, at the least.

File: Mathlib/Data/Finset/Image.lean [hunk 3]
```diff
@@ -79,6 +79,13 @@ theorem mem_map_equiv {f : α ≃ β} {b : β} : b ∈ s.map f.toEmbedding ↔ f
       simpa, fun h => ⟨_, h, by simp⟩⟩
 #align finset.mem_map_equiv Finset.mem_map_equiv
 
+theorem subset_map_equiv_iff {t : Finset β} {f : α ≃ β} : t ⊆ s.map f ↔ t.map f.symm ⊆ s := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Image.lean:82]: Can you make sure this matches a `Set` lemma with a similar name?

File: Mathlib/Data/Setoid/Partition.lean
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Partition.lean:1]: Why are you removing the warnings if you are not fixing the expanded binder collection?

File: Mathlib/Data/Setoid/Partition.lean [hunk 4]
```diff
@@ -340,6 +326,45 @@ theorem Finpartition.isPartition_parts {α} (f : Finpartition (Set.univ : Set α
...
+        exact hx'
+      · intro a
+        refine' (P'.isPartition_parts.right a).imp (fun t => And.imp _ _)
+        · simp only [exists_unique_iff_exists, Finset.mem_coe, exists_prop, and_imp]
+          intro ht hat
+          rw [copy_parts] at ht
+          · simp only [parts_equiv, Finset.mem_map_equiv] at ht
+            refine' ⟨⟨finsetOrderIsoSet.symm t, ht, _⟩, hat⟩
+            exact Equiv.apply_symm_apply _ t
+          · rw [← Finset.top_eq_univ, OrderIso.map_top, Set.top_eq_univ]
```
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Partition.lean:354]: No need to use so much indentation
```suggestion
    rw [Finset.coe_map]
    constructor
    · simp only [Set.mem_image, not_exists, not_and]
      intro x hx
      have hx' := P.ne_bot hx
      contrapose! hx'
      rw [← finsetOrderIsoSet.injective.eq_iff, OrderIso.map_bot]
      exact hx'
    intro a
    refine' (P'.isPartition_parts.right a).imp (fun t => And.imp _ _)
    · simp only [exists_unique_iff_exists, Finset.mem_coe, exists_prop, and_imp]
      intro ht hat
      rw [copy_parts] at ht
      · simp only [parts_equiv, Finset.mem_map_equiv] at ht
        refine' ⟨⟨finsetOrderIsoSet.symm t, ht, _⟩, hat⟩
        exact Equiv.apply_symm_apply _ t
      · rw [← Finset.top_eq_univ, OrderIso.map_top, Set.top_eq_univ]
```

File: Mathlib/Order/Hom/Basic.lean [hunk 5]
```diff
@@ -898,6 +898,8 @@ theorem toEquiv_symm (e : α ≃o β) : e.toEquiv.symm = e.symm.toEquiv :=
   rfl
 #align order_iso.to_equiv_symm OrderIso.toEquiv_symm
 
+theorem coe_symm (e : α ≃o β) : (e : α ≃ β).symm = e.symm := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Hom/Basic.lean:901]: Is this not syntactically the same theorem as above? If so, can you instead tag the above with `norm_cast`?

File: Mathlib/Order/Partition/Finpartition.lean [hunk 6]
```diff
@@ -110,20 +107,40 @@ def ofSubset {a b : α} (P : Finpartition a) {parts : Finset α} (subset : parts
...
   supParts := h ▸ P.supParts
   not_bot_mem := P.not_bot_mem
 #align finpartition.copy Finpartition.copy
 
+/-- Transfer a finpartition over an order isomorphism. -/
+def equiv {β : Type*} [Lattice β] [OrderBot β] {a : α} (P : Finpartition a) (e : α ≃o β) :
+    Finpartition (e a) where
+  parts := P.parts.map e
+  supIndep := by
+    intro u hu _ hb hbu _ hx hxu
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:122]:
```suggestion
  supIndep u hu _ hb hbu _ hx hxu := by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 7]
```diff
@@ -465,11 +484,24 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
 lemma eq_of_mem_parts (ht : t ∈ P.parts) (hu : u ∈ P.parts) (hat : a ∈ t) (hau : a ∈ u) : t = u :=
   P.disjoint.elim ht hu <| not_disjoint_iff.2 ⟨a, hat, hau⟩
 
-theorem exists_mem {a : α} (ha : a ∈ s) : ∃ t ∈ P.parts, a ∈ t := by
+theorem exists_mem (ha : a ∈ s) : ∃ t ∈ P.parts, a ∈ t := by
   simp_rw [← P.supParts] at ha
   exact mem_sup.1 ha
 #align finpartition.exists_mem Finpartition.exists_mem
 
+theorem exists_unique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:492]:
```suggestion
theorem existsUnique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 8]
```diff
@@ -518,6 +550,46 @@ theorem card_parts_le_card (P : Finpartition s) : P.parts.card ≤ s.card := by
   exact card_mono bot_le
 #align finpartition.card_parts_le_card Finpartition.card_parts_le_card
 
+variable [Fintype α]
+
+/-- A setoid over a finite type induces a finpartition of the type's elements,
+where the parts are the setoid's equivalence classes. -/
+def ofSetoid (s : Setoid α) [DecidableRel s.r] : Finpartition (univ : Finset α) :=
+  { parts := univ.image fun a => univ.filter (s.r a)
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:558]:
```suggestion
def ofSetoid (s : Setoid α) [DecidableRel s.r] : Finpartition (univ : Finset α) where
  parts := univ.image fun a => univ.filter (s.r a)
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 9]
```diff
@@ -556,9 +628,6 @@ def atomise (s : Finset α) (F : Finset (Finset α)) : Finpartition s :=
 
 variable {F : Finset (Finset α)}
 
--- porting note:
-/- ./././Mathport/Syntax/Translate/Basic.lean:632:2: warning: expanding binder collection
-   (Q «expr ⊆ » F) -/
 theorem mem_atomise :
     t ∈ (atomise s F).parts ↔
       t.Nonempty ∧ ∃ (Q : _) (_ : Q ⊆ F), (s.filter fun i ↦ ∀ u ∈ F, u ∈ Q ↔ i ∈ u) = t := by
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:633]: Same here. Please don't delete warnings you don't understand!

File: Mathlib/Order/Partition/Finpartition.lean [hunk 10]
```diff
@@ -465,11 +484,24 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
...
 #align finpartition.exists_mem Finpartition.exists_mem
 
+theorem exists_unique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
+  obtain ⟨t, ht, ht'⟩ := P.exists_mem ha
+  refine' ⟨t, ⟨ht, ht'⟩, _⟩
+  rintro u ⟨hu, hu'⟩
+  exact P.eq_of_mem_parts hu ht hu' ht'
+
+/-- The part of the finpartition that `a` lies in. -/
+def part (ha : a ∈ s) : Finset α := choose (hp := P.exists_unique_mem ha)
```
Comment (Parcly-Taxel) [inline Mathlib/Order/Partition/Finpartition.lean:499]:
```suggestion
def part (ha : a ∈ s) : Finset α := choose (hp := P.existsUnique_mem ha)
```

File: Mathlib/Order/Hom/Basic.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Hom/Basic.lean:901]: `toEquiv_symm` can't be tagged with `norm_cast` because it doesn't contain any coercions. `coe_symm` on the other hand can.

Comment (YaelDillies) [reply Mathlib/Order/Hom/Basic.lean:902]: Ah sorry this is the coercion mess with hom classes. I need to sort this out.

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Finset/Image.lean:82]: 🏓

File: Mathlib/Order/Partition/Finpartition.lean [hunk 11]
```diff
@@ -110,20 +107,39 @@ def ofSubset {a b : α} (P : Finpartition a) {parts : Finset α} (subset : parts
...
-    where
+def copy {a b : α} (P : Finpartition a) (h : a = b) : Finpartition b where
   parts := P.parts
   supIndep := P.supIndep
   supParts := h ▸ P.supParts
   not_bot_mem := P.not_bot_mem
 #align finpartition.copy Finpartition.copy
 
+/-- Transfer a finpartition over an order isomorphism. -/
+def equiv {β : Type*} [Lattice β] [OrderBot β] {a : α} (P : Finpartition a) (e : α ≃o β) :
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:118]:
```suggestion
def map {β : Type*} [Lattice β] [OrderBot β] {a : α} (P : Finpartition a) (e : α ≃o β) :
```
and people later might generalise away from order isomorphisms.

File: Mathlib/Order/Partition/Finpartition.lean [hunk 12]
```diff
@@ -465,11 +483,24 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
...
+theorem existsUnique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
+  obtain ⟨t, ht, ht'⟩ := P.exists_mem ha
+  refine' ⟨t, ⟨ht, ht'⟩, _⟩
+  rintro u ⟨hu, hu'⟩
+  exact P.eq_of_mem_parts hu ht hu' ht'
+
+/-- The part of the finpartition that `a` lies in. -/
+def part (ha : a ∈ s) : Finset α := choose (hp := P.existsUnique_mem ha)
+
+theorem part_mem (ha : a ∈ s) : P.part ha ∈ P.parts := choose_mem _ _ _
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:500]: You're missing `mem_part : a ∈ part ha`

File: Mathlib/Order/Partition/Finpartition.lean [hunk 13]
```diff
@@ -518,6 +549,46 @@ theorem card_parts_le_card (P : Finpartition s) : P.parts.card ≤ s.card := by
...
+    simp only [sup_image, Function.comp.left_id, mem_univ, mem_sup, mem_filter, true_and,
+      iff_true]
+    use a; exact s.refl a
+  not_bot_mem := by
+    rw [bot_eq_empty, mem_image, not_exists]
+    intro a
+    simp only [filter_eq_empty_iff, not_forall, mem_univ, forall_true_left, true_and, not_not]
+    use a; exact s.refl a
+
+theorem mem_part_univ_iff_rel {s : Setoid α} [DecidableRel s.r] {b : α} :
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:582]:
```suggestion
theorem mem_part_ofSetoid_iff_rel {s : Setoid α} [DecidableRel s.r] {b : α} :
```

File: Mathlib/Order/Partition/Finpartition.lean (hunk 12 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean:500]: That's `part_property`.

Comment (YaelDillies) [reply Mathlib/Order/Partition/Finpartition.lean:500]: Can you rename it then?

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Finset/Image.lean]: Done? (`Finset.map_subset_iff`)

File: Mathlib/Data/Finset/Lattice.lean [hunk 14]
```diff
@@ -88,6 +88,12 @@ theorem sup_congr {f g : β → α} (hs : s₁ = s₂) (hfg : ∀ a ∈ s₂, f
   exact Finset.fold_congr hfg
 #align finset.sup_congr Finset.sup_congr
 
+theorem sup_orderIso [SemilatticeSup β] [OrderBot β] (s : Finset α) (e : α ≃o β) :
+    s.sup e = e (s.sup id) := by
+  induction' s using cons_induction_on with _ _ _ IH
+  · simp
+  · rw [sup_cons, sup_cons, e.map_sup, IH]; rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Lattice.lean:95]: That's just `map_finset_sup` + `comp_id`

Comment (Parcly-Taxel) [reply Mathlib/Data/Finset/Lattice.lean]: Done.

File: Mathlib/Data/Finset/Image.lean [hunk 15]
```diff
@@ -79,6 +79,17 @@ theorem mem_map_equiv {f : α ≃ β} {b : β} : b ∈ s.map f.toEmbedding ↔ f
       simpa, fun h => ⟨_, h, by simp⟩⟩
 #align finset.mem_map_equiv Finset.mem_map_equiv
 
+/-- The `Finset` version of `Set.image_subset_iff`. -/
+theorem map_subset_iff {t : Finset β} {f : α ≃ β} : s.map f ⊆ t ↔ s ⊆ t.map f.symm := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Image.lean:83]: That's incorrect. It's closer to something like `Equiv.subset_image'`. You will have rename existing lemmas if you want to fit this one in (and you get to fix the name of `Equiv.subset_image` while you're at it).

Comment (Parcly-Taxel) [reply Mathlib/Data/Finset/Image.lean]: Done.

File: Mathlib/Order/Partition/Finpartition.lean [hunk 16]
```diff
@@ -666,7 +662,7 @@ theorem card_filter_atomise_le_two_pow (ht : t ∈ F) :
   rw [subset_iff]
   simp_rw [mem_image, mem_powerset, mem_filter, and_imp, Finset.Nonempty, exists_imp, mem_atomise,
     and_imp, Finset.Nonempty, exists_imp]
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:664]: Can you fix this simp call instead of changing the `rintro` invokation?

Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean]: Done.

**Comment by Parcly-Taxel** [comment]
maintainer merge

File: Mathlib/Order/Partition/Finpartition.lean [hunk 17]
```diff
@@ -466,11 +489,24 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
...
 #align finpartition.exists_mem Finpartition.exists_mem
 
+theorem existsUnique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
+  obtain ⟨t, ht, ht'⟩ := P.exists_mem ha
+  refine' ⟨t, ⟨ht, ht'⟩, _⟩
+  rintro u ⟨hu, hu'⟩
+  exact P.eq_of_mem_parts hu ht hu' ht'
+
+/-- The part of the finpartition that `a` lies in. -/
+def part (ha : a ∈ s) : Finset α := choose (hp := P.existsUnique_mem ha)
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:504]: What about
```suggestion
def part (a : α) : Finset α := if ha : a ∈ s then choose (hp := P.existsUnique_mem ha) else ∅
```
I strongly suspect this will nicer to work with (on top of displaying better in the infoview)

File: Mathlib/Order/Partition/Finpartition.lean [hunk 18]
```diff
@@ -602,4 +677,37 @@ theorem card_filter_atomise_le_two_pow (ht : t ∈ F) :
...
+  P.parts.attach.map ⟨fun p => (P.nonempty_of_mem_parts p.2).choose, by
+    rw [Injective]
+    intro ⟨v1, p1⟩ ⟨v2, p2⟩ eq
+    rw [Subtype.mk.injEq]
+    exact P.eq_of_mem_parts p1 p2 (eq ▸ (P.nonempty_of_mem_parts p1).choose_spec)
+      (P.nonempty_of_mem_parts p2).choose_spec⟩
+
+theorem card_reprs : P.reprs.card = P.parts.card := by simp [reprs]
+
+theorem mem_of_reprs (h : a ∈ P.reprs) : a ∈ s := by
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:693]:
```suggestion
theorem reprs_subset : P.reprs ⊆ s := by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 19]
```diff
@@ -602,4 +677,37 @@ theorem card_filter_atomise_le_two_pow (ht : t ∈ F) :
...
+section Representatives
+
+/-- Choose representatives from each part of a finpartition, collecting them into a finset. -/
+noncomputable def reprs : Finset α :=
+  P.parts.attach.map ⟨fun p => (P.nonempty_of_mem_parts p.2).choose, by
+    rw [Injective]
+    intro ⟨v1, p1⟩ ⟨v2, p2⟩ eq
+    rw [Subtype.mk.injEq]
+    exact P.eq_of_mem_parts p1 p2 (eq ▸ (P.nonempty_of_mem_parts p1).choose_spec)
+      (P.nonempty_of_mem_parts p2).choose_spec⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:689]: What's your use case? This looks a bit weird and non-canonical.

Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean:689]: For this theorem in #9317:
```lean
theorem notAdj_card_parts_le : (notAdjFinpartition hmax).parts.card ≤ r := by
  let fp := notAdjFinpartition hmax
  by_contra! h
  let z := fp.reprs -- `z` is an `r + 1`-clique in `G`
  have ncf : ¬G.CliqueFree z.card := by
    apply IsNClique.not_cliqueFree (s := z)
    constructor
    swap; · rfl
    intro v hv w hw hn
    norm_cast at hv hw
    contrapose! hn
    exact fp.reprs_injective hv hw (fp.eq_of_mem_parts (fp.part_mem _) (fp.part_mem _)
      (Finpartition.mem_part_ofSetoid_iff_rel.mpr hn) (fp.mem_part _))
  rw [Finpartition.card_reprs] at ncf
  exact absurd (CliqueFree.mono (Nat.succ_le_of_lt h) hmax.1) ncf
```

File: Mathlib/Order/Partition/Finpartition.lean (hunk 18 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean]: Done.

File: Mathlib/Order/Partition/Finpartition.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Order/Partition/Finpartition.lean:689]: Then could you state the existence of such representatives instead of defining arbitrary ones?

File: Mathlib/Order/Partition/Finpartition.lean [hunk 20]
```diff
@@ -466,11 +489,24 @@ theorem nonempty_of_mem_parts {a : Finset α} (ha : a ∈ P.parts) : a.Nonempty
...
+/-- The part of the finpartition that `a` lies in. -/
+def part (a : α) : Finset α := if ha : a ∈ s then choose (hp := P.existsUnique_mem ha) else ∅
+
+theorem part_mem (ha : a ∈ s) : P.part a ∈ P.parts := by simp [part, ha, choose_mem]
+
+theorem mem_part (ha : a ∈ s) : a ∈ P.part a := by simp [part, ha, choose_property]
+
 theorem biUnion_parts : P.parts.biUnion id = s :=
   (sup_eq_biUnion _ _).symm.trans P.sup_parts
 #align finpartition.bUnion_parts Finpartition.biUnion_parts
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:512]:
```suggestion
theorem biUnion_parts : P.parts.biUnion id = s :=
  (sup_eq_biUnion _ _).symm.trans P.sup_parts
#align finpartition.bUnion_parts Finpartition.biUnion_parts

theorem existsUnique_mem (ha : a ∈ s) : ∃! t, t ∈ P.parts ∧ a ∈ t := by
  obtain ⟨t, ht, ht'⟩ := P.exists_mem ha
  refine' ⟨t, ⟨ht, ht'⟩, _⟩
  rintro u ⟨hu, hu'⟩
  exact P.eq_of_mem_parts hu ht hu' ht'

/-- The part of the finpartition that `a` lies in. -/
def part (a : α) : Finset α := if ha : a ∈ s then choose (hp := P.existsUnique_mem ha) else ∅

theorem part_mem (ha : a ∈ s) : P.part a ∈ P.parts := by simp [part, ha, choose_mem]

theorem mem_part (ha : a ∈ s) : a ∈ P.part a := by simp [part, ha, choose_property]
```

File: Mathlib/Order/Partition/Finpartition.lean (hunk 19 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean:691]: Done (as `exists_bijOn_part`).

Comment (YaelDillies) [reply Mathlib/Order/Partition/Finpartition.lean:691]: Could you then remove the reprs material from the diff?

File: Mathlib/Order/Partition/Finpartition.lean [hunk 21]
```diff
@@ -602,4 +677,57 @@ theorem card_filter_atomise_le_two_pow (ht : t ∈ F) :
...
+  obtain ⟨⟨_, am⟩, _, ha'⟩ := ha
+  obtain ⟨⟨_, bm⟩, _, hb'⟩ := hb
+  rw [P.eq_of_mem_parts (P.part_mem ma) am (P.mem_part ma)
+    (ha' ▸ (P.nonempty_of_mem_parts am).choose_spec),
+      P.eq_of_mem_parts (P.part_mem mb) bm (P.mem_part mb)
+    (hb' ▸ (P.nonempty_of_mem_parts bm).choose_spec)] at hc
+  simp_rw [hc] at ha'
+  exact ha' ▸ hb'
+
+theorem surjOn_part : SurjOn P.part s P.parts := fun p hp ↦ by
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:715]:
```suggestion
theorem part_surjOn : SurjOn P.part s P.parts := fun p hp ↦ by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 22]
```diff
@@ -602,4 +677,57 @@ theorem card_filter_atomise_le_two_pow (ht : t ∈ F) :
...
+theorem exists_bijOn_part : ∃ r ⊆ s, BijOn P.part r P.parts := by
+  have su := P.surjOn_part
+  rw [surjOn_iff_exists_bijOn_subset] at su
+  obtain ⟨r, ⟨hr, hb⟩⟩ := su
+  classical letI := fintypeSubset ↑s hr
+  let f := r.toFinset
+  have rf : r = f := by rw [coe_toFinset]
+  rw [rf, Finset.coe_subset] at hr
+  use f, hr
+  rwa [coe_toFinset]
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:729]: Do you know about `lift`? It would do most of the job for you here:
```suggestion
  obtain ⟨r, hrs, hr⟩ := P.surjOn_part.exists_bijOn_subset
  lift r to Finset α using s.finite_toSet.subset hrs
  exact ⟨r, mod_cast hrs, hr⟩
```

File: Mathlib/Order/Partition/Finpartition.lean (hunk 19 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean]: Done.

File: Mathlib/Order/Partition/Finpartition.lean [hunk 23]
```diff
@@ -511,6 +511,16 @@ theorem part_mem (ha : a ∈ s) : P.part a ∈ P.parts := by simp [part, ha, cho
 
 theorem mem_part (ha : a ∈ s) : a ∈ P.part a := by simp [part, ha, choose_property]
 
+theorem part_surjOn : Set.SurjOn P.part s P.parts := fun p hp ↦ by
+  obtain ⟨x, hx⟩ := P.nonempty_of_mem_parts hp
+  have hx' := mem_of_subset ((le_sup hp).trans P.sup_parts.le) hx
+  use x, hx', (P.existsUnique_mem hx').unique ⟨P.part_mem hx', P.mem_part hx'⟩ ⟨hp, hx⟩
+
+theorem exists_part_bijOn : ∃ r ⊆ s, Set.BijOn P.part r P.parts := by
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:519]: I think this is a clearer name, to disambiguate that it's not the part that exists
```suggestion
theorem exists_subset_part_bijOn : ∃ r ⊆ s, Set.BijOn P.part r P.parts := by
```

**Comment by Parcly-Taxel** [comment]
@YaelDillies is everything OK now?

File: Mathlib/Order/Partition/Finpartition.lean [hunk 24]
```diff
@@ -119,6 +119,25 @@ def copy {a b : α} (P : Finpartition a) (h : a = b) : Finpartition b
   not_bot_mem := P.not_bot_mem
 #align finpartition.copy Finpartition.copy
 
+/-- Transfer a finpartition over an order isomorphism. -/
+def map {β : Type*} [Lattice β] [OrderBot β] {a : α} (P : Finpartition a) (e : α ≃o β) :
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:123]:
```suggestion
def map {β : Type*} [Lattice β] [OrderBot β] {a : α} (e : α ≃o β) (P : Finpartition a) :
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 25]
```diff
@@ -186,6 +205,10 @@ theorem parts_nonempty (P : Finpartition a) (ha : a ≠ ⊥) : P.parts.Nonempty
   parts_nonempty_iff.2 ha
 #align finpartition.parts_nonempty Finpartition.parts_nonempty
 
+@[simp]
+theorem parts_equiv {β : Type*} [Lattice β] [OrderBot β] {e : α ≃o β} :
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:209]:
```suggestion
theorem parts_map {β : Type*} [Lattice β] [OrderBot β] {e : α ≃o β} :
```

File: Mathlib/Order/Partition/Finpartition.lean (hunk 24 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean]: Done.

File: Mathlib/Order/Partition/Finpartition.lean [hunk 26]
```diff
@@ -186,6 +205,10 @@ theorem parts_nonempty (P : Finpartition a) (ha : a ≠ ⊥) : P.parts.Nonempty
   parts_nonempty_iff.2 ha
 #align finpartition.parts_nonempty Finpartition.parts_nonempty
 
+@[simp]
+theorem parts_map {β : Type*} [Lattice β] [OrderBot β] {e : α ≃o β} :
+    (P.map e).parts = P.parts.map e := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:210]: This should be just after the definition of `map`

Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean]: Done.

**Review by YaelDillies — APPROVED** [review]
Looks good now, thanks! I updated the PR title since you are definitely not defining "finpartitions, parts and setoids" in this PR.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
